US07943619B2
4-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-morpholine
A mixture of 3-chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine (150 mg, 0.5 mmol) and morpholine (0.17 mL, 2 mmol) was stirred at 116° C. for 4 h. After extraction with ethyl acetate/water the organic phase was concentrated and chromatographed (SiO2, heptane/ethyl acetate=100:0 to 70:30) to afford the title compound as a white solid (40 mg, 23%). MS: m/e=353.3 [M+H]+.

reactant | 3-chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine | 0.5 mmol, 150 mg | ClC=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C15H12ClN3O2
reactant | morpholine | 2 mmol, 0.17 mL | N1CCOCC1 | C4H9NO
product | 4-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-morpholine | 40 mg, 23% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N1CCOCC1 | C19H20N4O3
